* MODELLING FOR STGB20NB32LZ
 
.SUBCKT STGB20NB32LZ 1 2 3
LG 10 2 7.5E-09
LE 3 15 7.5E-09
LC 13 1 4.5E-09
RG 10 5 8
RC 14 13 0.543E-02
RE 15 12 0.771E-02
RGE 12 10 15K
RF 7 10 1MEG
RX 4 14 788.722
CGE 12 5 0.192E-08
CCG 17 4 0.548E-08
CK 16 4  0.415E-10
DGE 12 5 DE
DCG 12 11 DG
Q1 12 11 14 Q
M1 11 5 12 12 MOS
E1 16 5 8 7 1
E2 17 5 6 7 1
G1 7 9 11 10 1u
D1  8 9 DI
D2  9 6 DI
D3 16 4 DO
R1 7 8 1MEG
R2 7 6 1MEG
.ENDS STGB20NB32LZ
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 1.587
+ KP    = 30.429
+ THETA = 0.997E-01
 
.MODEL Q PNP
+ IS    = 0.893E-13
+ VAF   = 524.532
+ BF    = 1.982
+ NE    = 1.598
+ ISE   = 0.816E-12
+ IKF   = 4.722
+ BR    = 0.306E-01
+ NC    = 2.704
+ NK    = 0.329
+ TF    = 0.933E-06
+ ITF   = 1.201
+ VTF   = 20.164
+ XTF   = 1.523
 
.MODEL DI D
+ IS    = 0.01E-12
+ RS    = 0
 
.MODEL DO D
+ IS    = 0.01E-12
+ CJO   = 50E-12
+ VJ    = 0.75
+ M     = 0.35
 
.MODEL DE D
+ IS    = 0.01E-12
+ BV    = 14.3
+ N     = 2
 
.MODEL DG D
+ IS    = 0.01E-12
+ BV    = 380
+ VJ    = 0.75
+ M     = 0.35
 
* END OF MODELLING

